US04740232
0.8 g (0.033 mole) of sodium hydride is added to 10.8 g (0.03 mole) of 4-cyano-5-propionylamino-1-(2-chloro-4-trifluoromethoxyphenyl)-pyrazole in 100 ml of tetrahydrofuran and, when the evolution of gas has ended, 10.2 g (0.06 mole) of n-propyl iodide are added and the mixture is stirred at the reflux temperature for 48 hours. For working up, the mixture is concentrated in vacuo, the residue is taken up in 200 ml of methylene chloride and the mixture is washed twice with 100 ml of water each time, dried over sodium sulphate and concentrated in vacuo. The oil which remains is purified by column chromatography (eluant: chloroform/acetone 9:1) and crystallised from petroleum ether. 8.0 g (66.6% of theory) of 4-cyano-1-(2-chloro-4-trifluoromethoxyphenyl)-5-(N-n-propyl-N-propionylamino)-pyrazole of melting point 83° C. are obtained.

reactant | sodium hydride | 0.033 mole, 0.8 g | [H-].[Na+]
reactant | 4-cyano-5-propionylamino-1-(2-chloro-4-trifluoromethoxyphenyl)-pyrazole | 0.03 mole, 10.8 g | C(#N)C=1C=NN(C1NC(CC)=O)C1=C(C=C(C=C1)OC(F)(F)F)Cl | C14H10ClF3N4O2
reactant | n-propyl iodide | 0.06 mole, 10.2 g | C(CC)I | C3H7I
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 4-cyano-1-(2-chloro-4-trifluoromethoxyphenyl)-5-(N-n-propyl-N-propionylamino)-pyrazole | 8.0 g, 66.6% | C(#N)C=1C=NN(C1N(C(CC)=O)CCC)C1=C(C=C(C=C1)OC(F)(F)F)Cl | C17H16ClF3N4O2
